US04977146
trans-2-[3-(2-Oxopropylsulfonyl)-4-n-propoxy-5-(3-hydroxypropoxy)phenyl]-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran
A mixture of trans-2-[3-(2-oxopropylsulfonyl)-4-n-propoxy-5-hydroxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran (30 mg, 0.059 mmol), 3-bromo-1-propanol (12 uL, 0.13 mmol) and potassium carbonate (17 mg, 0.12 mmol) in DMF (0.5 mL) was heated at 80° C. with stirring under nitrogen for 1 h. The reaction mixture was cooled and diluted with ethyl ether. It was washed with water (2×), brine, dried, filtered, and evaporated to a residue (33 mg), which was purified by preparative TLC (hexane ethyl acetate; 7:3, v/v) to give the title compound (20 mg, 61%): Rf 0.3; NMR (CDCl3) δ 2.38 (s, SO2CH2COCH3), 4.15 & 4.24 (2 t, OCH2CH2), 4.48 (s, SO2CH2), 5.22 (m, H-2 & H-5).

reactant | trans-2-[3-(2-oxopropylsulfonyl)-4-n-propoxy-5-hydroxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | 0.059 mmol, 30 mg | O=C(CS(=O)(=O)C=1C=C(C=C(C1OCCC)O)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC)C | C25H32O9S
reactant | 3-bromo-1-propanol | 0.13 mmol, 12 uL | BrCCCO | C3H7BrO
reactant | potassium carbonate | 0.12 mmol, 17 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | trans-2-[3-(2-Oxopropylsulfonyl)-4-n-propoxy-5-(3-hydroxypropoxy)phenyl]-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran | 20 mg, 61% | O=C(CS(=O)(=O)C=1C=C(C=C(C1OCCC)OCCCO)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC)C | C28H38O10S
